US06617339B1
5(R)-(1,2,5-Thiadiazol-3-yloxymethyl)-3-phenyloxazolidin-2-one
Diisopropylazodicarboxylate (4.45 g, 22 mmol) was added dropwise to a stirred solution of 5(R)-hydroxymethyl-3-phenyloxazolidin-2-one (Gregory et al. J. Med, Chem, 32, 1673 (1989); 4.25 g,22 mmol), triphenyl phosphine (5.76 g, 22 mmol) and 3-hydroxy-1,2,5-thiadiazole (Weinstock et al, J.Org. Chem, 32, 2823 (1967)) (2.04 g, 20 mmol) in 30 ml THF, in an ice-bath. After stirring at ambient temperature for two hours and evaporating in vacuo, the resulting oil was purified by chromatography (Merck 9385 silica. Gradient elution from isohexane to ca. 50% EtOAc/isohexane to give a white solid. Further purification by flash chromatography on silica using 1% MeOH/dichloromethane was necessary to remove remaining diisopropylcarboxyhydrazine yielding the title product as a white crystalline solid (4.7 g, 83%). MS: ESP+ (M+H)+=278.

reactant | Diisopropylazodicarboxylate | 22 mmol, 4.45 g | CC(C)OC(=O)/N=N/C(=O)OC(C)C | C8H14N2O4
reactant | 5(R)-hydroxymethyl-3-phenyloxazolidin-2-one | 22 mmol, 4.25 g | OC[C@H]1CN(C(O1)=O)C1=CC=CC=C1 | C10H11NO3
reactant | triphenyl phosphine | 22 mmol, 5.76 g | C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1 | C18H15P
reactant | 3-hydroxy-1,2,5-thiadiazole | 20 mmol, 2.04 g | OC1=NSN=C1 | C2H2N2OS
solvent | THF | 30 ml | C1CCOC1 | C4H8O
product | 5(R)-(1,2,5-Thiadiazol-3-yloxymethyl)-3-phenyloxazolidin-2-one | S1N=C(C=N1)OC[C@H]1CN(C(O1)=O)C1=CC=CC=C1 | C12H11N3O3S
